US05969138
(4) Preparation of 1-(4-chlorophenyl)-3-mesyloxymethyl-2-pyrrolidinone
Under ice-cooling, 14.0 g of methanesulfonyl chloride was added dropwise to a solution of 23.2 g of 1-(4-chlorophenyl)-3-hydroxymethyl-2-pyrrolidinone and 12.5 g of triethylamine in 200 mL of dichloromethane. After 2 hours, the reaction mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated to give crystals. The crystals were sludged with diethyl ether and collected by filtration. The crystals were washed with diethyl ether and dried in vacuo to give 29.8 g of the title compound.

reactant | methanesulfonyl chloride | 14.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-chlorophenyl)-3-hydroxymethyl-2-pyrrolidinone | 23.2 g | ClC1=CC=C(C=C1)N1C(C(CC1)CO)=O | C11H12ClNO2
reactant | triethylamine | 12.5 g | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-(4-chlorophenyl)-3-mesyloxymethyl-2-pyrrolidinone | 29.8 g | ClC1=CC=C(C=C1)N1C(C(CC1)COS(=O)(=O)C)=O | C12H14ClNO4S
